US06294306B1
Preparation of Toner Particles Containing 4.3% LUCIDENE 246
250 g of the above “oxygen free” latex was added to 400 g of deionized water along with 10g of LUCIDENE 246 styrene/ethylhexylacrylate copolymer latex (MW wet sample 136,000) available from Morton Waterbased Polymers (containing 50% solids) and pigment dispersion (containing 7.6 g of BHD Sunsperse Cyan Pigment (53.4% aq.), 2.3 g of cationic surfactant B-50 and 220 g of deionized water), while being polytroned. Polytroning was continued for additional 2 min at 10,000 RPM. The dispersion was then transferred into a 2 liter jacketed kettle and the temperature was raised to 50° C. and held there for 1.5 hours to perform aggregation. The particle size measured was 7.4 micron with GSD 1.19. 40 ml of Neogen R surfactant (20%) was added to stabilize the aggregates and the temperature was raised to 93° C. Coalescence was performed at this temperature for an additional three hours. The particle size measured upon completion was 8.3 micron with GSD 1.22. The toner produced was identified as KLG-99. The particles were then washed several times with deionized water and dried on the freeze dryer.

reactant | oxygen | O=O | O2
reactant | Neogen R | 40 ml | CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)[O-].CCCCCCCCCCCCC1=CC(=CC=C1)S(=O)(=O)[O-].CCCCCCCCCCCCC1=CC=CC=C1S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | water | 220 g | O | H2O
reactant | water | 400 g | O | H2O
product | LUCIDENE 246 | C=CC1=CC=CC=C1.C=CC(=O)O | InChI=1S/C8H8.C3H4O2/c1-2-8-6-4-3-5-7-8;1-2-3(4)5/h2-7H,1H2;2H,1H2,(H,4,5)
